US04640703
A vessel is charged with 400 g (20 moles) of hydrogen fluoride and 167.4 g (0.518 mole) of methyl 2-[4-(3-amino-5-chloropyridin-2-yl-oxy)phenoxy]propionate are added in portions at a temperature from -8° to 0° C. 37.3 g (0.540 mole) of sodium nitrate are added over one hour and the mixture is stirred for two hours before it is slowly heated in an autoclave to 55° C. Excess hydrogen fluoride is removed by distillation and the residue is taken up in a mixture of 200 ml of methylene chloride and ice-water and the solution is neutralised with concentrated ammonia. The neutralised solution is extracted three times with methylene chloride and the organic extracts are washed with water, dried and concentrated by evaporation, affording 81.0 g (48% of theory) of methyl 2-[4-(5-chloro-3-fluoropyridin-2-yloxy)phenoxy]propionate with a melting point of 63°-64°.

reactant | hydrogen fluoride | 20 moles, 400 g | F | FH
reactant | methyl 2-[4-(3-amino-5-chloropyridin-2-yl-oxy)phenoxy]propionate | 0.518 mole, 167.4 g | NC=1C(=NC=C(C1)Cl)OC1=CC=C(OC(C(=O)OC)C)C=C1 | C15H15ClN2O4
reactant | sodium nitrate | 0.540 mole, 37.3 g | [N+](=O)([O-])[O-].[Na+]
product | methyl 2-[4-(5-chloro-3-fluoropyridin-2-yloxy)phenoxy]propionate | 81.0 g, 48% | ClC=1C=C(C(=NC1)OC1=CC=C(OC(C(=O)OC)C)C=C1)F | C15H13ClFNO4
